US05057614
150 mg of 3-(1-methyl-3-indolyl)-4-(1-phenyl-3-indolyl)furan-2,5-dione were treated with 3 ml of DMF and 10 ml of 33% aqueous ammonia at 80° C. for 4 hours. The mixture was cooled and extracted with ethyl acetate. The ethyl acetate extract was dried and concentrated. The residue was crystallized from ethyl acetate/hexane to give 120 mg of 3-(1-methyl-3-indolyl)-4-(1-phenyl-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 135°-137° C.

reactant | 3-(1-methyl-3-indolyl)-4-(1-phenyl-3-indolyl)furan-2,5-dione | 150 mg | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C1=CC=CC=C1)=O)=O | C27H18N2O3
reactant | ammonia | 10 ml | N | H3N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-(1-methyl-3-indolyl)-4-(1-phenyl-3-indolyl)-1H-pyrrole-2,5-dione | 120 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C1=CC=CC=C1)=O)=O | C27H19N3O2
